US07691893B2
Preparation 13: {[3-(3,4-dichlorophenyl)-3-buten-1-yl]oxy}(1,1-dimethylethyl)diphenylsilane (P13)
[(3-Bromo-3-buten-1-yl)oxy](1,1-dimethylethyl)diphenylsilane (P12, 3.50 g) and (3,4-dichlorophenyl)boronic acid (2.06 g) were dissolved in toluene (45 mL), the stirred solution was degassed, then tetrakis(triphenylphosphine)palladium(0) (0.363 g) and ethanol (33 mL) were added and the mixture was degassed again. A 2N aqueous solution of Na2CO3 (24 mL) was added and the mixture was heated to 80° C. and stirred under nitrogen atmosphere for 3 h at this temperature. After cooling to RT, the reaction mixture was extracted with ethyl ether, the organic phase was washed with brine, dried over Na2SO4 and the solvent removed under reduced pressure. The crude product was purified by flash chromatography (eluting with cy/EA from 100/0 to 95/5) to give the title compound (2.65 g) as a colourless oil.

reactant | [(3-Bromo-3-buten-1-yl)oxy](1,1-dimethylethyl)diphenylsilane | 3.50 g | BrC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C | C20H25BrOSi
reactant | (3,4-dichlorophenyl)boronic acid | 2.06 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | {[3-(3,4-dichlorophenyl)-3-buten-1-yl]oxy}(1,1-dimethylethyl)diphenylsilane | 2.65 g | ClC=1C=C(C=CC1Cl)C(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C | C26H28Cl2OSi
